US08076488B2
Preparation of 4-(4-Amino-3-methylphenoxy)pyridine-2-carboxylic acid methylamide
The title compound was prepared in the same manner described for 4-(4-aminophenoxy)pyridine-2-carboxylic acid methylamide, substituting 4-amino-3-methylphenol for 4-aminophenol. 1H-NMR (acetone-d6) δ 8.39 (d, J=5.7 Hz, 1H), 8.29 (br s, 1H), 7.51 (dd, J=2.7, 0.6 Hz, 1H), 6.98 (dd, J=5.7, 2.4 Hz, 1H), 6.82 (br s, 1H), 6.77 to 6.76 (m, 2H), 4.56 (br s, 2H), 2.92 (d, J=5.1 Hz, 3H), 2.16 (d, J=1.0 Hz, 3H).

reactant | 4-(4-aminophenoxy)pyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)N | C13H13N3O2
reactant | 4-aminophenol | NC1=CC=C(C=C1)O | C6H7NO
product | 4-(4-Amino-3-methylphenoxy)pyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)N)C | C14H15N3O2
